US09029545B2
1-[3-(Methyloxy)phenyl]-1-propanone
To a stirred solution of 3-(methyloxy)benzaldehyde (0.895 mL, 7.34 mmol) in diethyl ether (10 mL) cooled in an ice bath was added ethylmagnesium bromide (1.0M solution in THF) (11.02 mL, 11.02 mmol), the solution was stirred for 3 h in an ice bath, after which aqueous HCl (0.6M) (20 mL) was added. The aqueous layer was then extracted with DCM (4×30 mL), the combined organic extracts were dried over a phase separating column and concentrated. The residue was used in the next step without any further purification. To a solution of oxalyl chloride (0.964 mL, 11.02 mmol) in DCM (4 mL) cooled to −78° C. was added DMSO (1.042 mL, 14.69 mmol) dropwise, followed by a solution of the material isolated in the first step in DCM (6 mL). The resulting mixture was stirred for 1 h at −78° C. before the addition of triethylamine (5.12 mL, 36.7 mmol), after which the reaction mixture was stirred at −78° C. for 1 h. The reaction was quenched at −78° C. by water (20 mL). The aqueous layer was then extracted with DCM (3×50 mL), the combined organic extracts were dried over a phase separating column and concentrated. Purification by chromatography on silica gel, eluting with a gradient of 0-25% ethyl acetate in cyclohexane, afforded the title compound (1.126 g). LCMS (A) m/z: 165 [M+1]+, Rt 1.32 min (basic).

reactant | 3-(methyloxy)benzaldehyde | 7.34 mmol, 0.895 mL | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | ethylmagnesium bromide | 11.02 mmol, 1.0M, 11.02 mL | C(C)[Mg]Br
reactant | HCl | 0.6M, 20 mL | Cl | ClH
reactant | oxalyl chloride | 11.02 mmol, 0.964 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 14.69 mmol, 1.042 mL | CS(=O)C | C2H6OS
reactant | triethylamine | 36.7 mmol, 5.12 mL | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | 1-[3-(Methyloxy)phenyl]-1-propanone | 1.126 g | COC=1C=C(C=CC1)C(CC)=O | C10H12O2
